US08049015B2
(5-Bromo-pyridin-3-yl)-acetic acid ethyl ester (1.91 g, 7.8 mmol), 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (50% pure; 2.94 g, 11.75 mmol), and potassium carbonate (3.25 g, 23.5 mmol) were combined in 2:1 DME:H2O, and the solution was purged with N2 for 20 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.45 g, 0.39 mmol) was added, and the reaction was purged with N2 for another 25 minutes and then stirred at 75° C. for 2 hours. The mixture was worked up with EtOAc and H2O, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give [5-(4-fluoro-2-formyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester.

reactant | (5-Bromo-pyridin-3-yl)-acetic acid ethyl ester | 7.8 mmol, 1.91 g | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
reactant | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 11.75 mmol, 2.94 g | FC=1C=CC(=C(C=O)C1)B1OC(C(O1)(C)C)(C)C | C13H16BFO3
reactant | potassium carbonate | 23.5 mmol, 3.25 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.39 mmol, 0.45 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | [5-(4-fluoro-2-formyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)F)C=O)=O | C16H14FNO3
